US05292452
A solution of 35.0 g of 4-chloro-1-[4-(2-(1,4-dioxa-8-spiro[4.5]decyl)ethyl)-1-cyclohexenyl]benzene in 1 l of toluene is treated with 2.6 g of palladium/carbon (10%) and hydrogenated at room temperature under normal pressure until the uptake of hydrogen comes to a standstill. Thereafter, the reaction mixture is filtered and the filtrate is concentrated, there being obtained crude 4-chloro-1-[4-(2-(1,4-dioxa-8-spiro[4.5]decyl)ethyl)cyclohexyl]benzene. A suspension of 32.8 g of aluminium chloride in 215 ml of methylene chloride is treated at 18° C. while stirring and gassing with nitrogen within 10 minutes with a solution of the crude product obtained in 110 ml of methylene chloride and stirred at 0° C. for a further 30 minutes. Subsequently, the reaction mixture is poured on to 600 ml of ice/water, stirred for 10 minutes and then extracted three times with methylene chloride. The organic phases are washed in succession with water, with saturated sodium hydrogen carbonate solution and with water, then dried over sodium sulphate and filtered. Concentration of the filtrate gives 4-chloro-1-[trans-4-[2-(1,4-dioxa-8-spiro[4.5]decyl)ethyl]cyclohexyl]benzene.

reactant | 4-chloro-1-[4-(2-(1,4-dioxa-8-spiro[4.5]decyl)ethyl)-1-cyclohexenyl]benzene | 35.0 g | ClC1=CC=C(C=C1)C1=CCC(CC1)CCC1CCC2(OCCO2)CC1 | C22H29ClO2
reactant | hydrogen | [H][H] | H2
reactant | aluminium chloride | 32.8 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | toluene | 1 l | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 215 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 110 ml | C(Cl)Cl | CH2Cl2
catalyst | palladium/carbon | 2.6 g | [Pd] | Pd
product | 4-chloro-1-[trans-4-[2-(1,4-dioxa-8-spiro[4.5]decyl)ethyl]cyclohexyl]benzene | ClC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CCC1CCC2(OCCO2)CC1 | C22H31ClO2
